US08809361B2
5-(4-Methylsulfonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine]
2 M aqueous Na2CO3 solution (0.30 mL) is added to a mixture of 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] (0.10 g), 4-(methanesulfonyl)phenylboronic acid (0.08 g), 1,4-dioxane (1.5 mL), and methanol (0.5 mL) at room temperature. The mixture is sparged with Ar for 10 min prior to addition of PdCl2[1,1′-bis(diphenylphosphino)-ferrocene]*CH2Cl2 complex (20 mg). The resulting mixture is heated to reflux temperature and stirred at this temperature for 2 h. After cooling to room temperature, water and methanol are added and the resulting mixture is filtered. The filtrate is concentrated and the residue is chromatographed on reversed phase (HPLC, methanol/water) to give the title compound. LC (method 2): tR=1.72 min; Mass spectrum (ESI+): m/z=485 [M+H]+.

reactant | Na2CO3 | 2 M, 0.30 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 5-chloro-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | 0.10 g | ClC=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C19H25ClN2O3
reactant | 4-(methanesulfonyl)phenylboronic acid | 0.08 g | CS(=O)(=O)C1=CC=C(C=C1)B(O)O | C7H9BO4S
reactant | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
solvent | methanol | 0.5 mL | CO | CH4O
product | 5-(4-Methylsulfonyl-phenyl)-1″-tert-butoxycarbonyl-dispiro[2,3-dihydrofuro[2,3-c]pyridine-2,1′-cyclobutane-3′,4″-piperidine] | CS(=O)(=O)C1=CC=C(C=C1)C=1C=C2C(=CN1)OC1(CC3(CCN(CC3)C(=O)OC(C)(C)C)C1)C2 | C26H32N2O5S
